US05688946
A suspension of 60 mg (0.09 mmol) of (S)-N-[(1S,2R,3S)-3-azido-1-(cyclohexylmethyl)-3-cyclopropyl-2-hydroxypropyl]-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazole-4-propionamide and 20 mg of palladium/carbon (5%) in 15 ml of methanol is hydrogenated at room temperature for 4 hours. After filtering off the catalyst the solvent is evaporated under reduced pressure. For purification, the crude product (40 mg) is chromatographed on 10 g of silica gel using a 80:10:1 mixture of methylene chloride, methanol and ammonia as the eluent. There are obtained 35 mg of (S)-N-[(1S,2R,3S)-3-amino-1-(cyclohexylmethyl)-3-cyclopropyl-2-hydroxypropyl]-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazole-4-propionamide as a colourless solid; MS: 630 (M+H)+.

reactant | (S)-N-[(1S,2R,3S)-3-azido-1-(cyclohexylmethyl)-3-cyclopropyl-2-hydroxypropyl]-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazole-4-propionamide | 0.09 mmol, 60 mg | N(=[N+]=[N-])[C@H]([C@@H]([C@H](CC1CCCCC1)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C)C)=O)=O)O)C1CC1 | C33H49N7O5S
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium/carbon | 20 mg | [Pd] | Pd
product | (S)-N-[(1S,2R,3S)-3-amino-1-(cyclohexylmethyl)-3-cyclopropyl-2-hydroxypropyl]-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazole-4-propionamide | 35 mg | N[C@H]([C@H]([C@H](CC1CCCCC1)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C)C)=O)=O)O)C1CC1 | C33H51N5O5S
